US07300931B2
Synthesis of 2-(6-Chloro-pyridin-3-yl)-N-(3-fluoro-benzyl)-acetamide:
2-chloropyridine-5-acetic acid (0.2 gm, 1.21 mmole), 3-fluorobenzylamine (0.15 ml, 1.2 mmole), PyBOP (0.67 gm, 1.3 mmole), and DIEA (0.43 ml, 2.6 mmole) was dissolved in DMF stirred overnight, the reaction mixture was then poured into water, solid was collected by filtration, re-cyrstallized using water-methanol. (0.3 gm, 85%); H1-NMR INOVA-500 (CDCl3) δ 3.562 (s, 2H), 4.429 (d, J=6.5 Hz, 2H), 5.868 (s, 1H), 6.929-7.015 (m, 3H), 7.300-7.333 (m, 2H), 7.668 (dd, J=8, 2.5 Hz, 1H), 8.280 (d, J=2.5Hz, 1H).

reactant | 2-chloropyridine-5-acetic acid | 1.21 mmole, 0.2 gm | ClC1=NC=C(C=C1)CC(=O)O | C7H6ClNO2
reactant | 3-fluorobenzylamine | 1.2 mmole, 0.15 ml | FC=1C=C(CN)C=CC1 | C7H8FN
reactant | PyBOP | 1.3 mmole, 0.67 gm | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIEA | 2.6 mmole, 0.43 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(6-Chloro-pyridin-3-yl)-N-(3-fluoro-benzyl)-acetamide | ClC1=CC=C(C=N1)CC(=O)NCC1=CC(=CC=C1)F | C14H12ClFN2O
